US08012966B2
A stirred solution of 4-methyl-2-[2-(2-pyrrolidin-1-yl-ethylamino)-ethyl]-1H-pyrrole-3-carboxylic acid ethyl ester (1.441 g, 4.92 mmol) in 22.5 ml of toluene was added dropwise slowly with 2M trimethyl aluminum in toluene (5.1 ml, 10.2 mmol) under an argon atmosphere. The mixture was stirred for 1 hour at room temperature and heated to reflux for another 4 hours. The reaction mixture was cooled down to 0° C., added with 1N hydrochloric acid (20 ml) dropwise and cold water (20 ml), and stirred for 5 minutes. The mixture was adjusted to pH12 with 10% aqueous sodium hydroxide solution and extracted with dichloromethane (40 ml×3). The combined organic extracts were filtered through a pad of Celite. The filtrate was dried with anhydrous sodium sulfate, filtered and concentrated under reduced pressure to give 3-methyl-5-(2-pyrrolidin-1-yl-ethyl)-1,5,6,7-tetrahydro-pyrrolo[3,2-c]pyridin-4-one (719 mg, 59.2%) as a brown oil which was used as such.

reactant | 4-methyl-2-[2-(2-pyrrolidin-1-yl-ethylamino)-ethyl]-1H-pyrrole-3-carboxylic acid ethyl ester | 4.92 mmol, 1.441 g | C(C)OC(=O)C1=C(NC=C1C)CCNCCN1CCCC1 | C16H27N3O2
reactant | trimethyl aluminum | 2M | C[Al](C)C
reactant | hydrochloric acid | 1N, 20 ml | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | toluene | 22.5 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 10.2 mmol, 5.1 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 20 ml | O | H2O
product | 3-methyl-5-(2-pyrrolidin-1-yl-ethyl)-1,5,6,7-tetrahydro-pyrrolo[3,2-c]pyridin-4-one | 719 mg, 59.2% | CC1=CNC2=C1C(N(CC2)CCN2CCCC2)=O | C14H21N3O
